US07365085B2
g. N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
A solution of N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine (80 mg, 0.14 mmole) in 5 mL of MeOH was treated with 1 mL of H2O and 0.5 mL of 2.5N NaOH, and heated to 500 for 30 minutes. The reaction was diluted with H2O, and acidified to pH 4, and extracted with EtOAc. The extracts were washed with H2O, dried, and the solvent removed. The residue was dissolved in Et2O, a small amount of isopropanol was added, and treated with 4N HCl in dioxane. The precipitated solid was filtered, washed with Et2O and dried, and gave the titled compound, 65 mg (81%). MS (ESI) 554 (MH+).

reactant | N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | 0.14 mmole, 80 mg | ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C29H30Cl2F3NO3
reactant | NaOH | 2.5N, 0.5 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | H2O | O | H2O
solvent | H2O | 1 mL | O | H2O
product | N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | Cl.ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | InChI=1S/C28H28Cl2F3NO3.ClH/c1-19(23-10-2-3-12-25(23)29)17-34(18-21-8-5-11-24(27(21)30)28(31,32)33)13-6-14-37-22-9-4-7-20(15-22)16-26(35)36;/h2-5,7-12,16,19H,6,13-15,17-18H2,1H3,(H,35,36);1H
